data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_123360_1,[C@:1]([N:4]([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])([N:5]([H:11])[H:12])(/[C:7](=[C:6](\[O:8][H:9])[H:13])[H:14])[H:10]>>[C:1](\[N:5]([H:11])[H:12])(=[C:7](/[C@:6]([N:4]([C:2]([H:15])([H:16])[H:17])[C:3]([H:18])([H:19])[H:20])([O:8][H:9])[H:13])[H:14])[H:10],55.04492750002797
MR_525165_0,[C:1](/[N:5]=[C:2](\[N:3]([H:8])[H:9])[N:4][C:7][N:6][H:10])([H:11])([H:12])[H:13]>>[C:1]([N:5]1[C:2]([N:3]([H:8])[H:9])[N:4]=[C:7]1[N:6][H:10])([H:11])([H:12])[H:13],27.14941500001061
MR_100802_0,[C:1](\[C:2]([H:12])([H:13])[H:14])(=[C:3](/[O:5][H:8])[O:7]/[C:4](=[N:6]/[H:10])[H:11])[H:9]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([O:5][H:8])=[O:7])(/[C:4](=[N:6]/[H:10])[H:11])[H:9],50.49743499998812
MR_280567_1,[C:1](/[C:2]([C:5](=[C:6]([H:15])[H:16])[H:14])=[N:7]/[H:13])([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])[H:8]>>[C:1](/[C:2]([N:4]([H:11])[H:12])=[N:7]\[H:13])([N:3]([H:9])[H:10])([C:5](=[C:6]([H:15])[H:16])[H:14])[H:8],63.49484249998852
MR_207757_1,[C@@:1]([C:2]([H:15])([H:16])[H:17])(/[C:7](=[C:4](\[C:3]([H:18])([H:19])[H:20])[N:6]([H:12])[H:13])[H:14])([O:8][N:5]([H:10])[H:11])[H:9]>>[C:1](\[C:2]([H:15])([H:16])[H:17])(=[C:7](/[C@@:4]([C:3]([H:18])([H:19])[H:20])([N:6]([H:12])[H:13])[O:8][N:5]([H:10])[H:11])[H:14])[H:9],37.47994750000274
MR_609068_2,[C:1]1([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])/[C:4](=[C:5](\[N:7]([H:11])[H:12])[O:9][H:10])[C:6]1=[C:8]([H:19])[H:20]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])[C:4]1[C@:5]([N:7]([H:11])[H:12])([O:9][H:10])[C:6]1=[C:8]([H:19])[H:20],61.22078250002289
MR_624895_2,[C:1]([C@@:2]([C:3]([O:9][C:4]([H:17])([H:18])[H:19])([H:15])[H:16])([N:8]([H:13])[H:14])[H:10])([C:5]([H:20])([H:22])[H:23])([C:6]([H:21])([H:24])[H:25])[N:7]([H:11])[H:12]>>[C:1]([C:3]([C@:2]([N:8]([H:13])[H:14])([O:9][C:4]([H:17])([H:18])[H:19])[H:10])([H:15])[H:16])([C:5]([H:20])([H:22])[H:23])([C:6]([H:21])([H:24])[H:25])[N:7]([H:11])[H:12],72.93620749997842
MR_215327_0,[C:1]([N:4]([C:6](=[C:5]([C:2]([H:13])([H:14])[H:18])[C:3]([H:15])([H:16])[H:17])[H:9])[O:7][H:8])([H:10])([H:11])[H:12]>>[C:1]([N:4]1[C:5]([C:2]([H:13])([H:14])[H:18])([C:3]([H:15])([H:16])[H:17])[C:6]1([O:7][H:8])[H:9])([H:10])([H:11])[H:12],40.3338175000026
MR_211075_0,[C:1](\[C:4]([H:16])([H:17])[H:18])(=[C:6](/[C:7]1([H:15])[C:3]([H:13])([H:14])[C:2]([H:10])([H:11])[C:5]1=[O:8])[H:12])[H:9]>>[C:1]1([C:4]([H:16])([H:17])[H:18])([H:9])[C:5](=[O:8])[C:2]([H:10])([H:11])[C:3]([H:13])([H:14])[C:7]([H:15])=[C:6]1[H:12],42.68819749997945
MR_655497_0,[C:1]([c:5]1[n:2]([H:9])[c:3](=[O:8])[o:7][c:4]1[N:6]([H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:5]1([C:4]([N:6]([H:10])[H:11])=[O:7])[N:2]([H:9])[C:3]1=[O:8])([H:12])([H:13])[H:14],50.585912500014416
MR_612607_2,[C@@:1]([C@:2]([N:5]([C:3]([H:15])([H:16])[H:17])[H:10])([N:6]([H:13])[H:14])[H:12])([C:4]([H:18])([H:19])[H:20])([O:7][O:8][H:9])[H:11]>>[C@:1]([C@:2]([N:6]([H:13])[H:14])([O:7][O:8][H:9])[H:12])([C:4]([H:18])([H:19])[H:20])([N:5]([C:3]([H:15])([H:16])[H:17])[H:10])[H:11],63.19615250002926
MR_118635_1,[C:1](=[C:2]([N:5]([H:11])[H:12])[N:6]([H:13])[H:14])([C:3]([N:7]([H:15])[H:16])=[C:8]([H:17])[H:18])[N:4]([H:9])[H:10]>>[C:1](=[C:2]([C:3]([N:7]([H:15])[H:16])=[C:8]([H:17])[H:18])[N:5]([H:11])[H:12])([N:4]([H:9])[H:10])[N:6]([H:13])[H:14],68.92460000001236
MR_273245_1,[C:1]([C:3](=[C:2]([N:4]([H:10])[H:11])[N:5]([H:9])[H:12])/[C:7](=[C:8](\[N:6]([H:13])[H:14])[H:16])[H:15])([H:17])([H:18])[H:19]>>[C:1]([C:3]1=[C:7]([H:15])[C:8]([N:6]([H:13])[H:14])([H:16])[C:2]1([N:4]([H:10])[H:11])[N:5]([H:9])[H:12])([H:17])([H:18])[H:19],52.145250000036754
MR_617570_0,[C:1]1([C:2]([H:9])([H:10])[H:11])([C:4]([C:3]([H:12])([H:13])[H:14])=[O:7])[C:5]([H:8])=[N:6]1>>[C:1]1([C:2]([H:9])([H:10])[H:11])=[N:6][C:5]1([C:4]([C:3]([H:12])([H:13])[H:14])=[O:7])[H:8],62.70921250001024
MR_276877_1,[C:1]([C:3](=[C:2](\[N:4]([H:10])[H:11])[O:8][H:9])/[C:6](=[C:7](/[N:5]([H:12])[H:13])[H:15])[H:14])([H:16])([H:17])[H:18]>>[C:1]([C:3]1=[C:6]([H:14])[C:7]([N:5]([H:12])[H:13])([H:15])[C:2]1([N:4]([H:10])[H:11])[O:8][H:9])([H:16])([H:17])[H:18],40.83456249998676
MR_467478_0,[C@@:1](/[C:3]([C:2]([H:14])([H:15])[H:16])=[C:5](/[O:7][H:10])[H:13])([C:4](=[O:8])[H:12])([O:6][H:9])[H:11]>>[C@@:1]1([O:6][H:9])([H:11])[C:3]([C:2]([H:14])([H:15])[H:16])([C:4](=[O:8])[H:12])[C@:5]1([O:7][H:10])[H:13],59.87667749999218
MR_510690_1,[C:1]([N:3]([C:2]([H:13])([H:14])[H:15])[H:10])([C:4]([C:5](=[O:8])[H:12])=[O:7])([O:6][H:9])[H:11]>>[C:1]([C:4]([C:5]([N:3]([C:2]([H:13])([H:14])[H:15])[H:10])([O:8][H:9])[H:12])=[O:7])(=[O:6])[H:11],37.28479500003175
MR_504432_0,[C:1](\[N:2](/[C:3]([O:5][O:6][H:11])=[N:7]\[H:12])[H:8])(=[N:4]/[H:10])[H:9]>>[C:1]1([N:4]([H:10])[H:11])([H:9])[N:2]([H:8])/[C:3](=[N:7]\[H:12])[O:5][O:6]1,35.02579499999243
MR_20468_1,[C:1]([C:2]([O:5][H:6])([H:11])[H:12])([O:4][N:3]([H:7])[H:8])([H:9])[H:10]>>[C:1]([C@:2]([O:4][N:3]([H:7])[H:8])([O:5][H:6])[H:11])([H:9])([H:10])[H:12],63.73894000001428
